US05801271
Synthesis of ethyl 7-(N-t-butoxycarbonylamino)-3-oxo-2-phenylheptanoate
The target compound was prepared as a pale yellow oil in an amount 7.8 g at a yield of 48.1% in the same manner as in Example 1 except that 10 g (45.8 mmol) of 5-(N-t-butoxycarbonylamino)pentanoic acid instead of 5-(N-benzyloxycarbonylamino)pentanoic acid was dissolved in 70 ml of THF and 11.1 g (68.7 mmol) of CDI was added; 9.5 ml (72 mmol) of diisopropylamine and 40 ml of THF were added and 42 ml (69 mmol) of 1.63N BA solution was added dropwise; 10.6 g (68.7 mmol) of ethyl phenylacetate instead of methyl phenylacetate was dissolved in 20 ml of THF; and 30 ml of saturated aqueous ammonium chloride solution was added to the reaction solution, the reaction was terminated, 70 g of 4N hydrochloric acid was added, and 100 ml of ethylacetate was further added. The analytical results on the target compound are given below.

reactant | 5-(N-t-butoxycarbonylamino)pentanoic acid | 45.8 mmol, 10 g | C(C)(C)(C)OC(=O)NCCCCC(=O)O | C10H19NO4
reactant | CDI | 68.7 mmol, 11.1 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | diisopropylamine | 72 mmol, 9.5 ml | C(C)(C)NC(C)C | C6H15N
reactant | ethyl phenylacetate | 68.7 mmol, 10.6 g | C1(=CC=CC=C1)CC(=O)OCC | C10H12O2
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | ethyl 7-(N-t-butoxycarbonylamino)-3-oxo-2-phenylheptanoate | yield of 48.1% | C(C)(C)(C)OC(=O)NCCCCC(C(C(=O)OCC)C1=CC=CC=C1)=O | C20H29NO5
